US09334480B2
2-{4-[2-(3-Chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid methyl ester was synthesized from 2-(4-chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-3H-benzoimidazole-4-carboxylic acid methyl ester, 2-(3-Chloro-phenyl)-ethylamine, triethylamine, and ACN using a similar procedure as 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid methyl ester yielding 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid methyl ester.

reactant | 2-(4-chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-3H-benzoimidazole-4-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2N=C(NC21)C=2C(NC=CC2Cl)=O | C14H10ClN3O3
reactant | 2-(3-Chloro-phenyl)-ethylamine | ClC=1C=C(C=CC1)CCN | C8H10ClN
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2N=C(NC21)C=2C(NC=CC2NC[C@H](C2=CC=CC=C2)O)=O | C22H20N4O4
solvent | ACN | C(C)#N | C2H3N
product | 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2N=C(NC21)C=2C(NC=CC2NCCC2=CC(=CC=C2)Cl)=O | C22H19ClN4O3
